* C:\Users\sanbo\OneDrive - University of Florida\Documents\LTspiceXVII\MOSFET Schematic.asc
M1 Vout N005 0 0 NTLMS4504N
R1 N005 N004 2.2k
R2 0 N005 10k
V1 P001 0 24
V2 N004 0 3.3
R3 P001 Vout 1k
R4 N002 N003 2.2k
R5 N001 N002 10k
V3 N001 0 24
V4 N003 0 25
R6 0 Vout2 1k
M3 Vout2 N002 N001 N001 HAT1072H
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\sanbo\OneDrive - University of Florida\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
